US07176310B1
8. 2-[(4-Nitrophenylcarbamoyl)methoxy]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide
The titled compound was prepared from [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid using 4-nitroaniline (25 mg, 0.18 mmol) as the coupling partner. Chromatography (5% methanol/dichloromethane) through SiO2 yielded 13 mg (23%) of the titled compound. ESI-MS m/z 412 (MH+), 410 (M−H−).

reactant | [5-(4-fluorophenylcarbamoyl)pyrimidin-2-yloxy]acetic acid | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(=O)O | C13H10FN3O4
reactant | 4-nitroaniline | 0.18 mmol, 25 mg | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
solvent | methanol dichloromethane | CO.ClCCl
product | 2-[(4-Nitrophenylcarbamoyl)methoxy]pyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 13 mg, 23% | FC1=CC=C(C=C1)NC(=O)C=1C=NC(=NC1)OCC(NC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H14FN5O5
